US07301032B2
1.2 g of 3-methylthio-5-(cyclohexyl)methyl-1,2,4-thiadiazole was dissolved in 20 ml of chloroform, 2.78 g of 3-chloroperoxybenzoic acid (content>65%) was added thereto, and the reaction mixture was stirred for 1 hour under ice-cooling and for 16 hours at room temperature. Then, the reaction mixture was added to saturated sodium hydrogensulfite aqueous solution, and separated. The organic layer was washed with sodium hydrogencarbonate aqueous solution, dried over anhydrous sodium sulfate, concentrated to give 1.4 g of 3-methylsulfonyl-5-(cyclohexyl)methyl-1,2,4-thiadiazole.

reactant | 3-methylthio-5-(cyclohexyl)methyl-1,2,4-thiadiazole | 1.2 g | CSC1=NSC(=N1)CC1CCCCC1 | C10H16N2S2
reactant | 3-chloroperoxybenzoic acid | 2.78 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | sodium hydrogensulfite | S(=O)(O)[O-].[Na+]
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-methylsulfonyl-5-(cyclohexyl)methyl-1,2,4-thiadiazole | 1.4 g | CS(=O)(=O)C1=NSC(=N1)CC1CCCCC1 | C10H16N2O2S2
